US06992087B2
Preparation of 5-methoxyindan-1-amine
Following the procedure for the preparation of 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine but substituting 5-methoxyindan-1-one oxime and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.73, 2.75, 2.80, 2.94, 3.82, 4.34, 6.80, 7.25; HRMS (FAB) calcd for C10H11NO+H 162.0919, found 162.0922.

reactant | 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine | N1=C2C(=CC=C1)C(CC2)N | C8H10N2
reactant | 5-methoxyindan-1-one oxime | COC=1C=C2CCC(C2=CC1)=NO | C10H11NO2
product | 5-methoxyindan-1-amine | COC=1C=C2CCC(C2=CC1)N | C10H13NO
